US06060472
A. Preparation of 5-Chloro-3-[3-chlorophenyl-1-(tetra-hydropyran-2-yloxy) methyl]-[1 ,2,4]thiadiazole
To an ice-cooled solution of 2-(3-chlorophenyl)-2-(tetrahydropyran-2-yloxy)acetamidine hydrochloride (12.0 g, 39.51 mmol) in dichloromethane (20 mL) and sodium hydroxide (9.49 g, 0.237 mol, dissolved in 60 mL water) was added a solution of perchloromethyl mercaptan (9.18 g, 49.46 mmol) in dichloromethane (50 mL) over a period of 35 min. The reaction mixture was stirred at ice-cold temperature for a further 1 h and the organic layer was collected, dried (sodium sulfate), filtered and concentrated in vacuo. Purification by column chromatography on silica gel using a mixture of hexane and ethyl acetate (94/6) afforded the title compound as a light yellow oil (8.4 g, 61.5%). 1H-NMR (CDCl3) δ7.56 (d, J=6.9 Hz, 1H, Ar--H), 7.39-7.44 (m, 1H, Ar--H), 7.28-7.32 (m, 2H, Ar--H),6.08 and 6.03 (s, 0.5H each, α-H), 4.84 and 4.72 (t, J=3.1Hz, 0.5H each, OCHO), 3.49-3.92 (m, 2H, OCH2), 1.55-1.94 (m, 6H, 3CH2).

reactant | 2-(3-chlorophenyl)-2-(tetrahydropyran-2-yloxy)acetamidine hydrochloride | 39.51 mmol, 12.0 g | Cl.ClC=1C=C(C=CC1)C(C(=N)N)OC1OCCCC1
reactant | sodium hydroxide | 0.237 mol, 60 mL, 9.49 g | [OH-].[Na+]
reactant | perchloromethyl mercaptan | 49.46 mmol, 9.18 g | ClC(Cl)(Cl)S | CHCl3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-Chloro-3-[3-chlorophenyl-1-(tetra-hydropyran-2-yloxy) methyl]-[1 ,2,4]thiadiazole | 8.4 g, 61.5% | ClC1=NC(=NS1)C(OC1OCCCC1)C1=CC(=CC=C1)Cl | C14H14Cl2N2O2S
